### PR TITLE
[Merged by Bors] - refactor(Order/CompleteBooleanAlgebra): a complete lattice which is a Heyting algebra is automatically a frame

### PR DESCRIPTION
**Pull request by Bergschaf**
Every complete lattice that is a heyting algebra is also a frame. This is because the Heyting implication is the right adjoint to `⊓`, which means that `⊓` now preserves infinite suprema (because it is a left adjoint).

---

So, in my opinion, we don't need the `inf_sSup_le_iSup_inf` for the Frame structure anymore. I'm not sure if the way I implemented this is optimal, I'm happy to learn how to do this better.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by YaelDillies — COMMENTED** [review]
Nice find! Can you do the same thing for coframe?

**Comment by Bergschaf** [comment]
It seems like the documentation for (Generalized) Coheyting Algebras is wrong, because it claims that "A generalized co-Heyting algebra is a lattice with an additional binary difference operation \ such that (· \ a) is right adjoint to (· ⊔ a)."
But the supremum is actually the right adjoint, right? (Because it preserves infima)

**Comment by YaelDillies** [comment]
Very possible! I always get the directions wrong

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 1]
```diff
@@ -72,14 +73,24 @@ class Order.Coframe.MinimalAxioms (α : Type u) extends CompleteLattice α where
...
 whose `⊔` distributes over `⨅`. -/
 class Order.Coframe (α : Type*) extends CompleteLattice α, CoheytingAlgebra α where
-  /-- `⊔` distributes over `⨅`. -/
-  iInf_sup_le_sup_sInf (a : α) (s : Set α) : ⨅ b ∈ s, a ⊔ b ≤ a ⊔ sInf s
+
+/-- `⊔` distributes over `⨅`. -/
+theorem iInf_sup_le_sup_sInf {α : Type*} [Order.Coframe α] (a : α) (s : Set α) :
+    ⨅ b ∈ s, a ⊔ b ≤ a ⊔ sInf s := by
+  have h (b : α) : GaloisConnection (· \ b) (b ⊔ ·) := by
+    simp [GaloisConnection, sup_comm]
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:92]: Can you prove this as a standalone lemma `gc_sdiff_sup`?

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 2]
```diff
@@ -72,14 +73,24 @@ class Order.Coframe.MinimalAxioms (α : Type u) extends CompleteLattice α where
...
 /-- A frame, aka complete Heyting algebra, is a complete lattice whose `⊓` distributes over `⨆`. -/
 class Order.Frame (α : Type*) extends CompleteLattice α, HeytingAlgebra α where
-  /-- `⊓` distributes over `⨆`. -/
-  inf_sSup_le_iSup_inf (a : α) (s : Set α) : a ⊓ sSup s ≤ ⨆ b ∈ s, a ⊓ b
+
+/-- `⊓` distributes over `⨆`. -/
+theorem inf_sSup_le_iSup_inf {α : Type*} [Order.Frame α] (a : α) (s : Set α) :
+    a ⊓ sSup s ≤ ⨆ b ∈ s, a ⊓ b := by
+  have h (b : α) : GaloisConnection (b ⊓ ·) (b ⇨ ·) := by
+    simp [GaloisConnection, inf_comm]
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:81]: Same here

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 3]
```diff
@@ -204,7 +217,9 @@ variable (minAx : MinimalAxioms α)
 
 /-- The `CompleteDistribLattice.MinimalAxioms` element corresponding to a complete distrib lattice.
 -/
-def of [CompleteDistribLattice α] : MinimalAxioms α := { ‹CompleteDistribLattice α› with }
+def of [CompleteDistribLattice α] : MinimalAxioms α := { ‹CompleteDistribLattice α› with
+  inf_sSup_le_iSup_inf := _root_.inf_sSup_le_iSup_inf,
+  iInf_sup_le_sup_sInf := _root_.iInf_sup_le_sup_sInf}
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:222]: Same here

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 4]
```diff
@@ -75,18 +75,26 @@ class Order.Coframe.MinimalAxioms (α : Type u) extends CompleteLattice α where
...
 /-- `⊓` distributes over `⨆`. -/
-theorem inf_sSup_le_iSup_inf {α : Type*} [Order.Frame α] (a : α) (s : Set α) :
+theorem inf_sSup_eq {α : Type*} [Order.Frame α] {s : Set α} {a : α} :
+    a ⊓ sSup s = ⨆ b ∈ s, a ⊓ b :=
+  gc_inf_himp.l_sSup
+
+theorem inf_sSup_le_iSup_inf {α : Type*} [Order.Frame α] (a : α) (s : Set α):
     a ⊓ sSup s ≤ ⨆ b ∈ s, a ⊓ b :=
-  gc_inf_himp.l_sSup.le
+  inf_sSup_eq.le
```
[the remark this answers is not in the document]
Comment (Bergschaf) [reply Mathlib/Order/CompleteBooleanAlgebra.lean:84]: I just thought it would be handy for compatibility, since it is used for a lot of instance stuff..

[the remark this answers is not in the document]
Comment (Bergschaf) [reply Mathlib/Order/CompleteBooleanAlgebra.lean:84]: Should I do this then?
`/-- The `Order.Coframe.MinimalAxioms` element corresponding to a frame. -/
def of [Coframe α] : MinimalAxioms α where
  __ := ‹Coframe α›
  iInf_sup_le_sup_sInf a s := _root_.sup_sInf_eq.ge
`

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Order/CompleteBooleanAlgebra.lean]: It's used as a field only to make people's lives easier, but as a lemma I don't see the point

[the remark this answers is not in the document]
Comment (Bergschaf) [reply Mathlib/Order/CompleteBooleanAlgebra.lean]: ok makes, sense, I removed it

File: Mathlib/Data/Fintype/Order.lean [hunk 5]
```diff
@@ -125,6 +125,8 @@ noncomputable abbrev toCompleteLinearOrder
 noncomputable abbrev toCompleteBooleanAlgebra [BooleanAlgebra α] : CompleteBooleanAlgebra α where
   __ := ‹BooleanAlgebra α›
   __ := Fintype.toCompleteDistribLattice α
+  inf_sSup_le_iSup_inf _ _ := _root_.inf_sSup_eq.le
+  iInf_sup_le_sup_sInf _ _ := _root_.sup_sInf_eq.ge
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/Order.lean:129]:
```suggestion
  inf_sSup_le_iSup_inf _ _ := inf_sSup_eq.le
  iInf_sup_le_sup_sInf _ _ := sup_sInf_eq.ge
```

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 6]
```diff
@@ -60,26 +61,32 @@ except for implementing `Order.Frame` via `Order.Frame.ofMinimalAxioms`.
...
+  protected inf_sSup_le_iSup_inf (a : α) (s : Set α) : a ⊓ sSup s ≤ ⨆ b ∈ s, a ⊓ b
 
 /-- Structure containing the minimal axioms required to check that an order is a coframe. Do NOT
 use, except for implementing `Order.Coframe` via `Order.Coframe.ofMinimalAxioms`.
 
 This structure omits the `sdiff`, `hnot` fields, which can be recovered using
 `Order.Coframe.ofMinimalAxioms`. -/
 class Order.Coframe.MinimalAxioms (α : Type u) extends CompleteLattice α where
-  iInf_sup_le_sup_sInf (a : α) (s : Set α) : ⨅ b ∈ s, a ⊔ b ≤ a ⊔ sInf s
+  protected iInf_sup_le_sup_sInf (a : α) (s : Set α) : ⨅ b ∈ s, a ⊔ b ≤ a ⊔ sInf s
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:72]: They don't need to be protected anymore since you removed the lemma that was in the root namespace

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 7]
```diff
@@ -101,7 +108,7 @@ distribute over `⨅` and `⨆`. -/
 class CompleteDistribLattice (α : Type*) extends Frame α, Coframe α, BiheytingAlgebra α
 
 /-- In a complete distributive lattice, `⊔` distributes over `⨅`. -/
-add_decl_doc CompleteDistribLattice.iInf_sup_le_sup_sInf
+add_decl_doc inf_sSup_eq
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:111]: The docstring already exists, so you can remove all this

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 8]
```diff
@@ -650,8 +653,10 @@ instance (priority := 100) CompleteAtomicBooleanAlgebra.toCompletelyDistribLatti
 -- See note [lower instance priority]
 instance (priority := 100) CompleteAtomicBooleanAlgebra.toCompleteBooleanAlgebra
     [CompleteAtomicBooleanAlgebra α] : CompleteBooleanAlgebra α where
-  __ := ‹CompleteAtomicBooleanAlgebra α›
   __ := CompletelyDistribLattice.toCompleteDistribLattice
+  __ := ‹CompleteAtomicBooleanAlgebra α›
+  inf_sSup_le_iSup_inf _ _ := _root_.inf_sSup_eq.le
+  iInf_sup_le_sup_sInf _ _ := _root_.sup_sInf_eq.ge
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:659]: Same here, you can remove the `_root_`

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
